US07473783B2
Synthesis of (S)-acetic acid 1-[3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylcarbamoyl]-ethyl ester
To a vial charged with 3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine (30 mg, 0.12 mmol) and PS-DMAP (Argonaut resin, 450 mg, 5 equiv.) were added THF (0.8 mL) and (S)-(−)-2-acetoxypropionyl chloride (126 mg, 0.84 mmol). The reaction mixture was shaken at 70° C. overnight, then cooled to room temperature and treated with PS-trisamine (Argonaut resin, 1.03 g, 30 equiv.) at 50° C. for 4 hours. The resin was filtered, washed with DMF and the solvent was evaporated. Purification by reverse-phase preparative HPLC provided 21 mg (48% yield) of the title compound. 1H-NMR (d6-DMSO) δ: 7.78 (broad m, 1H), 7.61 (broad m, 1H), 7.47 (broad m, 2H), 5.13 (q, 1H), 2.09 (s, 3H), 1.44 (d, 3H); HPLC/MS m/z: 365.0 [MH]+.

reactant | 3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.12 mmol, 30 mg | ClC1=C(C=CC=C1)C1=NNC=2N=C(SC21)N | C10H7ClN4S
reactant | (S)-(−)-2-acetoxypropionyl chloride | 0.84 mmol, 126 mg | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | trisamine | 1.03 g, 30 equiv. | C(C(CO)(CO)N)O | C4H11NO3
catalyst | DMAP | 450 mg, 5 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | (S)-acetic acid 1-[3-(2-chloro-phenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylcarbamoyl]-ethyl ester | 21 mg, 48% yield | ClC1=C(C=CC=C1)C1=NNC=2N=C(SC21)NC(=O)[C@H](C)OC(C)=O | C15H13ClN4O3S
